US06867205B2
5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-naphthalen-1-yl-pyrimidin-4-ylamine
The title compound, MS: m/e=395.3 (M+H+), was prepared from naphthalene-1-carboxamidine and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | naphthalene-1-carboxamidine | C1(=CC=CC2=CC=CC=C12)C(=N)N | C11H10N2
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-naphthalen-1-yl-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)C1=CC=CC2=CC=CC=C12)N | C21H16Cl2N4
